US08466114B2
To a solution of (2S,3R,4R,5S,6R)-2-[3-(4-benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-4-chloro-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (2.4 g, 4.68 mmol) in methanol (15 mL) was added 10% palladium on charcoal (240 mg) and 0.05 mL conc. HCl. The reaction mixture was stirred under hydrogen atmosphere for 2 h then filtered through celite bed (which was washed with methanol). The resulting filtrate was concentrated to a residue which was purified by preparative HPLC to furnish (2S,3R,4R,5S,6R)-2-[4-chloro-3-(3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (1.6 g).

reactant | (2S,3R,4R,5S,6R)-2-[3-(4-benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-4-chloro-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 4.68 mmol, 2.4 g | C(C1=CC=CC=C1)N1CCOC2=C1C=C(C=C2)CC=2C=C(C=CC2Cl)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO | C28H30ClNO6
reactant | HCl | 0.05 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on charcoal | 240 mg | [Pd] | Pd
product | (2S,3R,4R,5S,6R)-2-[4-chloro-3-(3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 1.6 g | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC=1C=CC2=C(NCCO2)C1 | C21H24ClNO6
